US04419439
Synthesis of 4-n-Octyloxy-1-naphthol [Compound (I-2)]
216 g of naphthohydroquinone and 527 g of n-octyl alcohol were placed in a 2 l three-necked flask, and 114 ml of concentrated sulfuric acid was dropwisely added thereto for 30 minutes under nitrogen gas stream while stirring. Thereafter, the reaction mixture was heated at 50° C. for 1 hour and then cooled to room temperature. The reaction mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with ammonia-water until the washing reached pH of 5 to 6. The ethyl acetate layer was further washed two times with an aqueous sodium chloride solution and, then, dried with anhydrous sodium sulfate. The dried ethyl acetate solution was concentrated under reduced pressure to precipitate crystals. The crystals were filtered off, and the filtrate was further concentrated under reduced pressure to distill off ethyl acetate and n-octyl alcohol to obtain oily substance. The oily substance was purified by column chromatography using a mixed solvent of n-hexane and ethyl acetate and, then, recrystallized from n-hexane to obtain 190 g of white crystals having a melting point of 73° to 74° C.

reactant | naphthohydroquinone | 216 g | C1=CC=C2C(=C1)C(=CC=C2O)O | C10H8O2
reactant | sulfuric acid | 114 ml | S(O)(O)(=O)=O | H2O4S
solvent | n-octyl alcohol | 527 g | C(CCCCCCC)O | C8H18O
product | 4-n-Octyloxy-1-naphthol | 190 g | C(CCCCCCC)OC1=CC=C(C2=CC=CC=C12)O | C18H24O2
